US05589486
Preparation of 3-[4-(4-Chlorophenyl)-1,2,3,6-tetrahydro-1-pyridyl]-1-(2,4-dichlorophenyl)propanol
After adding 12.93 g (0.03 mol) of 3-[4-(4-chlorophenyl)-1,2,3,6-tetrahydro-1-pyridyl]-1-(2,4-dichlorophenyl)propanone hydrochloride to a solution of 1.2 g (0.03 mol) of sodium hydroxide in 50 ml of methanol, 1.17 g of sodium borohydride are portionwise added to the above mixture over 1 hour. After terminating the addition, the reaction mixture is boiled under reflux for 3 hours, then the reaction mixture is poured into 150 ml of water. The major part of methanol is distilled off from the so-obtained oily precipitate, which is then twice extracted with 50 ml of ethyl acetate each. After evaporating the solvent, 12.3 g of evaporation residue are obtained to give a crystalline product on addition of 50 ml of diisopropyl ether. In this way 8.32 g of title product are obtained, which is recrystallized from 28 ml of isopropanol to obtain 6.3 g of title compound, m.p.: 96°-98° C.

reactant | 3-[4-(4-chlorophenyl)-1,2,3,6-tetrahydro-1-pyridyl]-1-(2,4-dichlorophenyl)propanone hydrochloride | 0.03 mol, 12.93 g | Cl.ClC1=CC=C(C=C1)C=1CCN(CC1)CC(CC1=C(C=C(C=C1)Cl)Cl)=O
reactant | sodium hydroxide | 0.03 mol, 1.2 g | [OH-].[Na+]
reactant | sodium borohydride | 1.17 g | [BH4-].[Na+]
reactant | diisopropyl ether | 50 ml | C(C)(C)OC(C)C | C6H14O
solvent | methanol | 50 ml | CO | CH4O
product | 3-[4-(4-Chlorophenyl)-1,2,3,6-tetrahydro-1-pyridyl]-1-(2,4-dichlorophenyl)propanol | 8.32 g | ClC1=CC=C(C=C1)C=1CCN(CC1)CCC(O)C1=C(C=C(C=C1)Cl)Cl | C20H20Cl3NO
